US06329546B1
Synthesis of 3-methylcarbostyril
Into 10 ml of ethanol, 0.5 g of (E) ethyl 3-(2-aminophenyl)-2-methyl-2-propenate was dissolved; and, while being stirred, the mixture was irradiated with ultraviolet rays at 256 nm for 48 hours. The reaction liquid was concentrated under a reduced pressure, and the resulting crude crystal was recrystallized from ethanol, whereby the aimed compound was obtained.

reactant | ethyl 3-(2-aminophenyl)-2-methyl-2-propenate | NC1=C(C=CC=C1)C=C(C(=O)OCC)C | C12H15NO2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-methylcarbostyril | CC=1C(NC2=CC=CC=C2C1)=O | C10H9NO
